US04460777
To a suspension of 0.49 g of lithium aluminum hydride in 50 ml of anhydrous tetrahydrofuran under nitrogen was added dropwise at room temperature a solution of 3.92 g of 1-(5-methoxycarbonylpentyl)-5-chloro-3-methyl-2-(3-pyridyl)indole in 30 ml of anhydrous tetrahydrofuran. After addition was complete the suspension was stirred for 1 hour at room temperature, and 50 ml of a saturated ammonium chloride solution was added. The reaction mixture was allowed to stand at room temperature overnight and the organic layer was separated. The aqueous layer was filtered to remove salts and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by trituration with hexane/ether and dissolved in ethanol. Ethanolic hydrochloric acid was added to acidity and the solution diluted with anhydrous ether to crystallize the product. 1-(6-Hydroxyhexyl)-5-chloro-3-methyl-2-(3-pyridyl)indole hydrochloride hemihydrate, m.p. 115°-8° was obtained.

reactant | lithium aluminum hydride | 0.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(5-methoxycarbonylpentyl)-5-chloro-3-methyl-2-(3-pyridyl)indole | 3.92 g | COC(=O)CCCCCN1C(=C(C2=CC(=CC=C12)Cl)C)C=1C=NC=CC1 | C21H23ClN2O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(6-Hydroxyhexyl)-5-chloro-3-methyl-2-(3-pyridyl)indole hydrochloride hemihydrate | O.Cl.OCCCCCCN1C(=C(C2=CC(=CC=C12)Cl)C)C=1C=NC=CC1.OCCCCCCN1C(=C(C2=CC(=CC=C12)Cl)C)C=1C=NC=CC1.Cl | InChI=1S/2C20H23ClN2O.2ClH.H2O/c2*1-15-18-13-17(21)8-9-19(18)23(11-4-2-3-5-12-24)20(15)16-7-6-10-22-14-16;;;/h2*6-10,13-14,24H,2-5,11-12H2,1H3;2*1H;1H2
